US08748444B2
To a solution of (R)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-1,3-oxazinan-2-one (150 mg, 0.45 mmol) in acetone (10 mL) was added Jones reagent (2.5 mol/L, 0.5 mL) at 0° C., and the mixture was stirred at rt for 1 h. The reaction mixture was concentrated, and the mixture was extracted with EtOAc. The combined organic phase was concentrated to give the crude product, which was purified by preparative TLC to give 3-((R)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)propanoic acid (50 mg, 32%).

reactant | (R)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-1,3-oxazinan-2-one | 0.45 mmol, 150 mg | CC([C@H](C)N1C(O[C@@](CC1)(CCCO)C1=CC=C(C=C1)F)=O)(C)C | C19H28FNO3
reactant | Jones reagent | 2.5 mol/L, 0.5 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 3-((R)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)propanoic acid | 50 mg, 32% | CC([C@H](C)N1C(O[C@](CC1)(C1=CC=C(C=C1)F)CCC(=O)O)=O)(C)C | C19H26FNO4
